US08912208B2
(4-{4-[5-(4-Trifluoromethyl-benzenesulfonylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester.
To a solution of 0.300 g (0.925 mmol) of {4-[4-(5-Amino-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester, and 8 mL of dichloromethane was added 0.112 mL (1.39 mmol) of pyridine, 0.271 g (1.11 mmol) of 4-Trifluoromethyl-benzenesulfonyl chloride and 0.004 g (0.0277 mmol) DMAP. The dark orange solution was stirred at r.t. for 4 h. The mixture was extracted with dichloromethane, then washed with water, 1N HCl, and brine. Dried with Na2SO4. Purified on silica gel (EtOAc/Heptane, 9:1 to 6:4) to afford the title compound. 1H NMR (400 MHz, CHLOROFORM-d6) 0.99-1.10 (m, 2 H) 1.34-1.46 (m, 2 H) 1.71-1.82 (m, 5 H) 2.14 (d, J=6.82 Hz, 2 H) 2.39 (tt, J=12.16, 3.25 Hz, 1 H) 3.57 (s, 3 H) 7.16 (d, J=8.34 Hz, 2 H) 7.54 (dd, J=2.53, 1.77 Hz, 2 H) 7.61 (d, J=8.34 Hz, 2 H) 7.73 (d, J=8.34 Hz, 2 H) 7.78 (d, J=8.08 Hz, 2 H) 8.14 (dd, J=2.27, 1.01 Hz, 1 H).

reactant | {4-[4-(5-Amino-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 0.925 mmol, 0.300 g | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)N)=O | C20H24N2O2
reactant | pyridine | 1.39 mmol, 0.112 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-Trifluoromethyl-benzenesulfonyl chloride | 1.11 mmol, 0.271 g | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
catalyst | DMAP | 0.0277 mmol, 0.004 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | (4-{4-[5-(4-Trifluoromethyl-benzenesulfonylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)=O | C27H27F3N2O4S
